US06638929B2
4-(4-Chloro-5-methoxy-2-methylanilino)-7,8-dimethoxybenzo[g]quinoline-3-carbonitrile
Following the procedure of Example 11, a mixture of 75.8 mg (0.25 mmol) of 4-chloro-7,8-dimethoxybenzo[g]quinoline-3-carbonitrile, 51.5 mg (0.30 mmol) of 4-chloro-5-methoxy-2-methylaniline and 28.9 mg (0.25 mmol) of pyridine hydrochloride in 5.0 mL of 2-ethoxyethanol is heated at 120-130° C. for 2 hours to yield the crude product. Purification of the crude product on preparative TLC (developing solvent: 95:5 methylene chloride/methanol) yields 88.7 mg (82.1%) of the pure product as a yellow solid, mp 171-173° C.

reactant | 4-chloro-7,8-dimethoxybenzo[g]quinoline-3-carbonitrile | 0.25 mmol, 75.8 mg | ClC1=C(C=NC2=CC3=C(C=C12)C=C(C(=C3)OC)OC)C#N | C16H11ClN2O2
reactant | 4-chloro-5-methoxy-2-methylaniline | 0.30 mmol, 51.5 mg | ClC1=CC(=C(N)C=C1OC)C | C8H10ClNO
reactant | pyridine hydrochloride | 0.25 mmol, 28.9 mg | Cl.N1=CC=CC=C1
solvent | 2-ethoxyethanol | 5.0 mL | C(C)OCCO | C4H10O2
product | 4-(4-Chloro-5-methoxy-2-methylanilino)-7,8-dimethoxybenzo[g]quinoline-3-carbonitrile | 88.7 mg, 82.1% | ClC1=CC(=C(NC2=C(C=NC3=CC4=C(C=C23)C=C(C(=C4)OC)OC)C#N)C=C1OC)C | C24H20ClN3O3
